datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1>>CC1(C)C[C:61](=[O:62])[CH:10]([CH:20](C2=CC=CC=C2)C2C(C3=CC=CC=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:71](=[O:72])C1 10=20;20,21=21"
"CC(C)(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1>>CC1(C)C[C:11](=[O:12])[C:10]([CH:20]([CH:21]=[C:22](C(C)(C)C)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62].Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[C:61]([CH:10]([C:20]1(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33])[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>C[C:22](=[CH:21][CH:20]([CH:10]1CC2C3C4[CH:62]([CH+:11]1)[Fe-3:63]234(C#[O+])(C#[O+])C#[O+])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F>>CC(C)(C1=CC=CC=C1)[O-:21].FC(F)(F)[S:20][CH:10]1CCCC[C:11]1=[N+:12]1CCCC1 10,11=10,20;12=11,12;20,21=21"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].C1=C[C:61]2=[C:62](C=C1)[N-:12][CH:11]=[N:10]2>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([N:10]1[CH:11]=[N:12][C:62]3=[C:61]1C=CC=C3)[C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)=[C:22]2[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].CC1=CC=CC=C1[P:10](C1=CC=CC=C1C)C1=C(C)C=CC=C1>>CC1=CC=CC=C1[P+:10](C1=CC=CC=C1C)(C1=C(C)C=CC=C1)[N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)C)[C:41](=[O:42])[O:43]C(C)C 10=20;20,21=21,22;22,23=23"
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]CC3)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([CH:20]=[O:21])C=C1.CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[CH:20](C2=CC=CC=C2)[O-:21])C=C1 10=20;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC(C)(C)[C:11]([CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1.COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([O:10]/[C:61](C2=[N+](C3=C(C)C=C(C)C=C3C)N=C(C3=CC=CC=C3)N2C2=C(C)C=C(C)C=C2C)=[C:62](/C)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"C1CCCCCCC[C:11](=[CH2:10])CCCCCC1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C+:11]1CCCCCCCCCCCCCC1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[N-:10]=[C:61]=[S:62]>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([N:10]=[C:61]=[S:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>CC(C)(C)[C:11]([CH2:10][CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
